US04143159
A mixture of 35.4 gm (0.3 mole) of ethyl lactate and 19.4 gm (0.33 mole) of propylamine were stirred together at 60° C. for 16 hours and subsequently distilled under reduced pressure. 30 gm (76% of theory) of N-propyl-lactic acid amide of boiling point 152° C./9 torr and of refractive index (nD20) 1.4563 were obtained.

reactant | ethyl lactate | 0.3 mole, 35.4 gm | C(C(O)C)(=O)OCC | C5H10O3
reactant | propylamine | 0.33 mole, 19.4 gm | C(CC)N | C3H9N
product | N-propyl-lactic acid amide | 30 gm, 76% | C(CC)NC(C(O)C)=O | C6H13NO2
